US05773463
(±) trans 1-(4-Benzylanilino)-2-methylaminoindane (E10)
(±) trans 1-(4-Benzoylanilino)-2-ethoxycarbonylaminoindane (1.0 g, 2.50 mmol) was reduced with LiAlH4 (0.95 g, 25.0 mmol) as described for Example 2. After stirring at room temperature for 2 days, the reaction was worked up as described for Example 2. Purification on a silica gel column using 0-2% ethanol in chloroform as eluant afforded a solid (0.58 g) which was recrystallised to give the title compound as a colourless solid, m.p. 137°-138° C. (from methanol/diethyl ether/n-pentane).

reactant | (±) trans 1-(4-Benzoylanilino)-2-ethoxycarbonylaminoindane | 2.50 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)C1=CC=C(N[C@H]2[C@@H](CC3=CC=CC=C23)NC(=O)OCC)C=C1 | C25H24N2O3
reactant | LiAlH4 | 25.0 mmol, 0.95 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | (±) trans 1-(4-Benzylanilino)-2-methylaminoindane | 0.58 g | C(C1=CC=CC=C1)C1=CC=C(N[C@H]2[C@@H](CC3=CC=CC=C23)NC)C=C1 | C23H24N2
